US08258144B2
A mixture of 2,4-dichloro-7H-pyrrolo[2,3-d]pyrimidine (100 mg, 0.531 mmol), pyrrolidine (0.050 mL, 0.600 mmol) and triethylamine (0.200 mL, 1.43 mmol) in dioxane (4 mL) was stirred at 70° C. for 20 h. Water and EtOAc were added. The organic phase was separated, dried over Na2SO4, concentrated in vacuo to give 2-chloro-4-(pyrrolidin-1-yl)-7H-pyrrolo[2,3-d]pyrimidine (116 mg). MS 223.3 and 225.3 (M+H, Cl pattern)

reactant | 2,4-dichloro-7H-pyrrolo[2,3-d]pyrimidine | 0.531 mmol, 100 mg | ClC=1N=C(C2=C(N1)NC=C2)Cl | C6H3Cl2N3
reactant | pyrrolidine | 0.600 mmol, 0.050 mL | N1CCCC1 | C4H9N
reactant | triethylamine | 1.43 mmol, 0.200 mL | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-chloro-4-(pyrrolidin-1-yl)-7H-pyrrolo[2,3-d]pyrimidine | 116 mg | ClC=1N=C(C2=C(N1)NC=C2)N2CCCC2 | C10H11ClN4
